US07241893B2
To the mixture of 4-iodoaniline (14 g, 64 mmol) and pyridine (10.5 mL, 128 mmol) in methylene chloride (85 mL) was added 3-ethoxy-acryloyl chloride (10 g, 75 mmol). After stirring for 5 hrs, more 3-ethoxy-acryloyl chloride (5 g, 38 mmol) and pyridine (10.5 mL, 64 mmol) was added. After stirring for 2 days, the reaction mixture was washed with water 3×100 mL), dried over MgSO4 and concentrated to give 3-ethoxy-N-(4-iodo-phenyl)-acrylamide as black oil (11.32 g, 56%). LC-MS m/e 318 (MH+).

reactant | 4-iodoaniline | 64 mmol, 14 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | pyridine | 128 mmol, 10.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-ethoxy-acryloyl chloride | 75 mmol, 10 g | C(C)OC=CC(=O)Cl | C5H7ClO2
reactant | 3-ethoxy-acryloyl chloride | 38 mmol, 5 g | C(C)OC=CC(=O)Cl | C5H7ClO2
reactant | pyridine | 64 mmol, 10.5 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 85 mL | C(Cl)Cl | CH2Cl2
product | 3-ethoxy-N-(4-iodo-phenyl)-acrylamide | 11.32 g, 56% | C(C)OC=CC(=O)NC1=CC=C(C=C1)I | C11H12INO2
